US08334287B2
c) 5-chloro-2-ethyl-2H-pyridazin-3-one
The title compound, white crystalline solid, MS: m/e=159.1, 161.1 (M+H+), was prepared in accordance with the general method of example 23c by treatment of 2-ethyl-5-methoxy-2H-pyridazin-3-one with phosphorus oxychloride.

reactant | 2-ethyl-5-methoxy-2H-pyridazin-3-one | C(C)N1N=CC(=CC1=O)OC | C7H10N2O2
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-chloro-2-ethyl-2H-pyridazin-3-one | ClC1=CC(N(N=C1)CC)=O | C6H7ClN2O
